US07754759B2
To a solution of (7-benzenesulfonyl-4-hydroxy-4-methyl-chroman-2-ylmethyl)-methyl-carbamic acid tert-butyl ester (212 mg, 0.474 mmol) in DCM (10 mL) was added TFA (1 mL). The reaction was stirred for 3 hours at room temperature, then concentrated in vacuo. The residue was purified via flash chromatography (DCM/MeOH/TEA) to give 7-benzenesulfonyl-4-methyl-2-methylaminomethyl-chroman-4-ol (63 mg, 38% yield) as a trifluoroacetate salt: Mp 163.9-165.3° C.

reactant | (7-benzenesulfonyl-4-hydroxy-4-methyl-chroman-2-ylmethyl)-methyl-carbamic acid tert-butyl ester | 0.474 mmol, 212 mg | C(C)(C)(C)OC(N(C)CC1OC2=CC(=CC=C2C(C1)(C)O)S(=O)(=O)C1=CC=CC=C1)=O | C23H29NO6S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-benzenesulfonyl-4-methyl-2-methylaminomethyl-chroman-4-ol | 63 mg, 38% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(CC(OC2=C1)CNC)(O)C | C18H21NO4S
